US07135482B2
N-tert-Butoxy-3-(2,3-difluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxamide
The title compound can be prepared by coupling of 3-(2,3-difluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxylic acid and N-(tert-butoxy)amine under the same conditions as those in step (c) of Example 1.

reactant | 3-(2,3-difluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxylic acid | FC1=C(CN2C=NC3=C2C=NC(=C3)C(=O)O)C=CC=C1F | C14H9F2N3O2
reactant | N-(tert-butoxy)amine | C(C)(C)(C)ON | C4H11NO
product | N-tert-Butoxy-3-(2,3-difluorobenzyl)-3H-imidazo[4,5-c]pyridine-6-carboxamide | C(C)(C)(C)ONC(=O)C1=CC2=C(C=N1)N(C=N2)CC2=C(C(=CC=C2)F)F | C18H18F2N4O2
